US04684398
A solution of 6.13 g of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea and 10 ml of 70 percent aqueous ethylamine in 90 ml of ethanol was heated at reflux with stirring for 20 hours. The reaction mixture was cooled in a refrigerator to give 2.44 g of N"-cyano-N-ethyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)-guanidine as a white, crystalline solid, mp 152°-153.5° C.

reactant | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea | 6.13 g | C(#N)N=C(NC1CCCC2=CC=CC=C12)SC | C13H15N3S
reactant | ethylamine | 10 ml | C(C)N | C2H7N
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | N"-cyano-N-ethyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)-guanidine | 2.44 g | C(#N)N=C(NCC)NC1CCCC2=CC=CC=C12 | C14H18N4
